US06121308
1-methyl-2-[N-(4-amidinophenyl-)aminomethyl]-5-[N-(hydroxycarbonylmethyl)-pyridin-2-yl-carbonylamino]-benzimidazole
Prepared analogously to Example 3 from 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-5-[N-(ethoxycarbonylmethyl)-pyridin-2-yl-carbonylamino]-benzimidazole and sodium hydroxide solution.

reactant | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-5-[N-(ethoxycarbonylmethyl)-pyridin-2-yl-carbonylamino]-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)OCC)C(=O)C2=NC=CC=C2)CNC2=CC=C(C=C2)C(N)=N | C26H27N7O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-methyl-2-[N-(4-amidinophenyl-)aminomethyl]-5-[N-(hydroxycarbonylmethyl)-pyridin-2-yl-carbonylamino]-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)O)C(=O)C2=NC=CC=C2)CNC2=CC=C(C=C2)C(N)=N | C24H23N7O3
